US07829584B2
(6-chloro-3-cyano-pyridin-2-yl)-acetic Acid
A mixture of malonic acid dimethyl ester, sodium salt (8.067 g, 52.4 mmol), as prepared in the previous step, 2,6-dichloro-nicotinonitrile (4.53 g, 26.2 mmol), as prepared in Example 6b, and dioxane (40 mL) was stirred at 80° C. for 1 h. The resulting easily stirred reddish-brown opaque thin slurry was allowed to cool to rt, 6 M HCl (aq) (80 mL) was added, and the mixture was vigorously stirred at 65-70° C. for 5 h open to air. The resulting clear dark amber solution containing a small amount of dark material was allowed to cool to rt, diluted with water (80 mL), and extracted with DCM (3×100 mL). The organic layers were combined, dried (2×Na2SO4), and concentrated under reduced pressure at 60° C. to provide the crude title compound as a dark brown oil (6.2 g, quantitative yield). A NMR spectrum of the reaction following malonate addition indicated a ˜1:2 mixture of desired/undesired regioisomers.

reactant | malonic acid dimethyl ester | COC(CC(=O)OC)=O | C5H8O4
reactant | sodium | 52.4 mmol, 8.067 g | [Na] | Na
reactant | 2,6-dichloro-nicotinonitrile | 26.2 mmol, 4.53 g | ClC1=C(C#N)C=CC(=N1)Cl | C6H2Cl2N2
reactant | HCl | 6 M, 80 mL | Cl | ClH
solvent | water | 80 mL | O | H2O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (6-chloro-3-cyano-pyridin-2-yl)-acetic Acid | 6.2 g, quantitative yield | ClC1=CC=C(C(=N1)CC(=O)O)C#N | C8H5ClN2O2
